US09260425B2
Following the procedure of Example 189, (S)-benzyl azepan-4-ylcarbamate and 3-(6-fluoropyridin-2-yl)-5-(1-methyl-1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine were reacted to give benzyl (4S)-1-(6-(5-(1-methyl-1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)azepan-4-ylcarbamate as a solid (73.4%). LC/MS: m/z 607.3 [M+1].

reactant | (S)-benzyl azepan-4-ylcarbamate | N1CC[C@H](CCC1)NC(OCC1=CC=CC=C1)=O | C14H20N2O2
reactant | 3-(6-fluoropyridin-2-yl)-5-(1-methyl-1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | FC1=CC=CC(=N1)C1=NN(C2=CN=C(C=C21)C=2C=NN(C2)C)C2OCCCC2 | C20H19FN6O
product | benzyl (4S)-1-(6-(5-(1-methyl-1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)azepan-4-ylcarbamate | 73.4% | CN1N=CC(=C1)C=1C=C2C(=CN1)N(N=C2C2=CC=CC(=N2)N2CC[C@H](CCC2)NC(OCC2=CC=CC=C2)=O)C2OCCCC2 | C34H38N8O3
